US09416141B2
Step 2: 2-{[(4-chlorophenyl)carbamoyl]amino}-6-{3-[3-(1H-indol-3-yl)propanamido]propyl}-4H,5H,6H,7H-thieno[2,3-c]pyridine-3-carboxamide (H)
To a stirred solution of 6-(3-aminopropyl)-2-{[(4-chlorophenyl)carbamoyl]amino}-4H,5H,6H,7H-thieno[2,3-c]pyridine-3-carboxamide (0.14 mmol) in anhydrous THF (1.5) were added triethyl amine (93 μL, 0.66 mmol), 3-indolepropionic acid (31 mg, 0.16 mmol), EDC.HCl (31 mg, 0.16 mmol), HOBt (25 mg, 0.16 mmol) and the resultant mixture was stirred at room temperature for 8 h. Upon completion, the solvent was removed in vacuo and the oil was taken up in DCM. The organics were washed with water (×2) and dried (anhydrous Na2SO4) and evaporated to afford the crude product which was purified by flash chromatography Isolera system (SiO2 gel as stationary phase, 12 g HP column, dry loading) using DCM-DCM/MeOH (0%-12% MeOH in DCM) to afford the title compound as a brown solid (31 mg, 37% yield). 1H NMR (300 MHz, MeOH-d4) δ 7.55 (d, J=15.5 Hz, 1H), 7.50-7.43 (m, 2H), 7.34-7.24 (m, 3H), 7.12-6.95 (m, 3H), 3.38 (bs, 2H), 3.17 (t, J=6.7 Hz, 2H), 3.06 (t, J=7.2 Hz, 2H), 2.82-2.74 (m, 2H), 2.68-2.61 (m, 2H), 2.55 (t, J=7.2 Hz, 2H), 2.36-2.27 (m, 2H), 1.67-1.54 (m, 2H). LRMS [M+H]579.

reactant | 6-(3-aminopropyl)-2-{[(4-chlorophenyl)carbamoyl]amino}-4H,5H,6H,7H-thieno[2,3-c]pyridine-3-carboxamide | 0.14 mmol | NCCCN1CC2=C(CC1)C(=C(S2)NC(NC2=CC=C(C=C2)Cl)=O)C(=O)N | C18H22ClN5O2S
reactant | triethyl amine | 0.66 mmol, 93 μL | C(C)N(CC)CC | C6H15N
reactant | 3-indolepropionic acid | 0.16 mmol, 31 mg | N1C=C(C2=CC=CC=C12)CCC(=O)O | C11H11NO2
reactant | EDC.HCl | 0.16 mmol, 31 mg | CCN=C=NCCCN(C)C.Cl
reactant | HOBt | 0.16 mmol, 25 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
solvent | THF | C1CCOC1 | C4H8O
product | 2-{[(4-chlorophenyl)carbamoyl]amino}-6-{3-[3-(1H-indol-3-yl)propanamido]propyl}-4H,5H,6H,7H-thieno[2,3-c]pyridine-3-carboxamide | 31 mg, 37% yield | ClC1=CC=C(C=C1)NC(=O)NC1=C(C2=C(CN(CC2)CCCNC(CCC2=CNC3=CC=CC=C23)=O)S1)C(=O)N | C29H31ClN6O3S
